US06969711B2
To a solution of 3-amino-2-(2-tert-butyldimethylsilyloxyethylthio)-6-methyl-4-methylthiopyridine (synthesized by the method disclosed in Example 30 in WO96/26925) (1.50 g, 4.35 mmol) in dichloromethane (30 ml) were added N,N-dimethylaniline (0.63 g, 5.22 mmol) and bromoacetyl bromide (1.05 g, 5.22 mmol) with ice-cooling and stirring, and the mixture was stirred at room temperature for 1 hour. The reaction solution was mixed with a saturated ammonium chloride solution and extracted with chloroform. The organic layer was washed with water and a saturated sodium chloride solution successively, dried over anhydrous sodium sulfate and concentrated in vacuo. The resulting residue was purified by a silica gel column chromatography (silica gel 100 g, developing solvent; hexane:ethyl acetate=3:1) to provide 1.57 g (yield 78%) of 2-bromo-N-[2-(2-tert-butyldimethylsilyloxyethylthio)-6-methyl-4-methylthio-3-pyridyl]acetamide as colorless powdery crystals.

reactant | 3-amino-2-(2-tert-butyldimethylsilyloxyethylthio)-6-methyl-4-methylthiopyridine | NC=1C(=NC(=CC1SC)C)SCCO[Si](C)(C)C(C)(C)C | C15H28N2OS2Si
reactant | N,N-dimethylaniline | 5.22 mmol, 0.63 g | CN(C1=CC=CC=C1)C | C8H11N
reactant | bromoacetyl bromide | 5.22 mmol, 1.05 g | BrCC(=O)Br | C2H2Br2O
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | 2-bromo-N-[2-(2-tert-butyldimethylsilyloxyethylthio)-6-methyl-4-methylthio-3-pyridyl]acetamide | 1.57 g, yield 78% | BrCC(=O)NC=1C(=NC(=CC1SC)C)SCCO[Si](C)(C)C(C)(C)C | C17H29BrN2O2S2Si
